US09061999B2
8-chloro-3-methyl-5-(2-(piperidin-1-yl)ethoxy)quinolin-2(1H)-one (160 mg, 0.5 mmol, 1 eq.) was placed in acetonitrile (1.2 mL) in the presence of POCl3 (233 μL, 2.5 mmol, 5 eq.) and triethylammonium chloride (570 mg, 2.5 mmol, 5 eq.). The reaction mixture was stirred at 120° C. during 3 hours. The mixture was then concentrated under reduced pressure and, after adding water to the residue (5 mL), was stirred at room temperature during 30 minutes. Then the resulting precipitate was washed with water and filtered to give 2,8-dichloro-3-methyl-5-(2-(piperidin-1-yl)ethoxy)quinoline (170 mg, 100%).

reactant | 8-chloro-3-methyl-5-(2-(piperidin-1-yl)ethoxy)quinolin-2(1H)-one | 0.5 mmol, 160 mg, 1 eq. | ClC=1C=CC(=C2C=C(C(NC12)=O)C)OCCN1CCCCC1 | C17H21ClN2O2
reactant | POCl3 | 2.5 mmol, 233 μL, 5 eq. | O=P(Cl)(Cl)Cl | Cl3OP
reactant | triethylammonium chloride | 2.5 mmol, 570 mg, 5 eq. | [Cl-].C(C)[NH+](CC)CC
solvent | acetonitrile | 1.2 mL | C(C)#N | C2H3N
product | 2,8-dichloro-3-methyl-5-(2-(piperidin-1-yl)ethoxy)quinoline | 170 mg, 100% | ClC1=NC2=C(C=CC(=C2C=C1C)OCCN1CCCCC1)Cl | C17H20Cl2N2O
